US06740662B1
To a THF solution of 2,6-dichloro-3-(3-chlorobenzoyl)pyridine was added a 70% ethylamine aqueous solution, followed by reaction at room temperature. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 6-chloro-3-(3-chlorobenzoyl)-2-ethylaminopyridine. NMR1: 8.95 (1H, brs), 6.48 (1H, d, J=7.8 Hz), 1.31 (3H, t, J=7.1 Hz).

reactant | 2,6-dichloro-3-(3-chlorobenzoyl)pyridine | ClC1=NC(=CC=C1C(C1=CC(=CC=C1)Cl)=O)Cl | C12H6Cl3NO
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 6-chloro-3-(3-chlorobenzoyl)-2-ethylaminopyridine | ClC1=CC=C(C(=N1)NCC)C(C1=CC(=CC=C1)Cl)=O | C14H12Cl2N2O
